US06001849
39b. 5,6-Dichloro-2-(2-(R)-pyrrolidinyl)furo[3,2-b]pyridine
5,6-Dichloro-2-(1-t-butyloxycarbonyl-2-(R)-pyrrolidinyl)furo[3,2-b]pyridine (355 mg, 1.0 mmol) was dissolved in CH2Cl2 (3 mL) and TFA (3 mL) was added at ambient temperature. After stirring for 1 hour, the solvent was removed and the residue was redissolved in CH2Cl2 and washed with saturated K2CO3 solution, dried (MgSO4) and concentrated. The crude product was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a solid (220 mg, 87%): 1H NMR (CDCl3, 300 MHz) δ 1.81-2.05 (m, 3H), 2.15-2.29 (m, 1H), 3.04-3.20 (m, 2H), 4.39-4.42 (m, 1H), 6.70 (s, 1H), 7.80 (s, 1H); MS (CI/NH3) m/z: 257 (M+H)+.

reactant | 5,6-Dichloro-2-(1-t-butyloxycarbonyl-2-(R)-pyrrolidinyl)furo[3,2-b]pyridine | 1.0 mmol, 355 mg | ClC1=C(C=C2C(=N1)C=C(O2)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)Cl | C16H18Cl2N2O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5,6-Dichloro-2-(2-(R)-pyrrolidinyl)furo[3,2-b]pyridine | 220 mg, 87% | ClC1=C(C=C2C(=N1)C=C(O2)[C@@H]2NCCC2)Cl | C11H10Cl2N2O
